US06514981B1
A suspension of 3.38 g of 5-chlorosulfonyl-2-oxindole from the oxindole O-17 in 10 mL of 2 M methylamine in tetrahydrofuran was stirred at room temperature for 4 hours at which time a white solid was present. The precipitate was collected by vacuum filtration, washed twice with 5 mL of water each time and dried under vacuum at 40° C. overnight to give 3.0 g (88% yield) of 5-methylaminosulfonyl-2-oxindole.

reactant | 5-chlorosulfonyl-2-oxindole | 3.38 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
solvent | methylamine | 2 M, 10 mL | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-methylaminosulfonyl-2-oxindole | 3.0 g, 88% yield | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
